US04050921
2-(4-Methoxyphenylmethylsulfinyl)pyridine N-oxide
The procedure employed is identical to that of Example 68 using 7 gm (0.028 mol) 2-(4-methoxyphenylmethylthio)pyridine N-oxide in 50 ml of chloroform and 5.6 gm (0.028 mol) MCPBA in 100 ml chloroform.

reactant | 2-(4-methoxyphenylmethylthio)pyridine N-oxide | 0.028 mol, 7 gm | COC1=CC=C(C=C1)CSC1=[N+](C=CC=C1)[O-] | C13H13NO2S
reactant | MCPBA | 0.028 mol, 5.6 gm | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Methoxyphenylmethylsulfinyl)pyridine N-oxide | COC1=CC=C(C=C1)CS(=O)C1=[N+](C=CC=C1)[O-] | C13H13NO3S
